US08440658B2
To a solution of (R)-6-(2-aminoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (144 mg, 0.45 mmol) and triethylamine (136 mg, 1.35 mmol) in CH2Cl2 (5 mL) was added methanesulfonyl chloride (153 mg, 1.35 mmol) at 0° C., and the reaction mixture was stirred at rt until the reaction was over. The reaction was quenched with H2O. The mixture was extracted with EtOAc, and the organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to give crude product, which was purified by preparative TLC to afford N-(2-((S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)ethyl)methanesulfonamide (121 mg, 67%). LC-MS Method 1 tR=1.192, min, m/z=401.1; 1H NMR (CDCl3): 0.65 (s, 9H), 1.01-1.07 (d, 3H), 1.96-2.06 (m, 1H), 2.12-2.18 (m, 2H), 2.21-2.28 (m, 1H), 2.57-2.66 (m, 1H), 2.78 (s, 3H), 2.85-2.97 (m, 1H), 3.01-3.12 (m, 2H), 4.31-4.39 (m, 1H), 4.64-4.72 (m, 1H), 6.98-7.07 (m, 2H), 7.19-7.24 (m, 2H).

reactant | (R)-6-(2-aminoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 0.45 mmol, 144 mg | NCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C18H27FN2O2
reactant | triethylamine | 1.35 mmol, 136 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.35 mmol, 153 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)ethyl)methanesulfonamide | 121 mg, 67% | CC([C@H](C)N1C(O[C@](CC1)(C1=CC=C(C=C1)F)CCNS(=O)(=O)C)=O)(C)C | C19H29FN2O4S
